US07595322B2
Preparation of 4-(3-Carboxy-4-chloro-benzenesulfonyl)-piperazine-1-carboxylic acid ethyl ester
2-Chloro-5-fluorosulfonylbenzoic acid (Acros Organics, 105 mg, 440 μmol, 1.0 eq) was placed in a vial and the vial was flushed with nitrogen and a positive pressure was maintained. Anhydrous dichloromethane (1.4 mL) was added, followed by ethyl 1-piperazine carboxylate (80 μL, 528 μmol, 1.2 eq) and ethyldiisopropylamine (redistilled, 80 μL, 440 μmol, 1.0 eq). The mixture was stirred for 1.5 h after which time additional piperazine was added (60 μL, 352 μmol, 0.8 eq). After 14 h the mixture was analyzed by reverse-phase HPLC-MS in negative ionization mode. The sulfonyl fluoride starting material was present, as well as a less polar compound showing (M−1) ion in about 35:65 ratio. An additional 0.35 eq of piperazine and ethyldiisopropylamine each (154 μmol, 30 μl) were added and the mixture was stirred for 4 h. HPLC-MS at this time indicated little progress and an additional 0.25 eq of piperazine (100 mmol, 20 μL) was added. After stirring for 14 h HPLC-MS indicated the reaction was complete. The reaction mixture was diluted with 2 mL of ethyl acetate, washed with 1 M HCl solution (2×1 mL) and dried over anhydrous sodium sulfate. The solution was filtered, the solvents removed on a rotary evaporator and vacuum pump to afford 134 mg of a white solid, 81%. NOTE: Addition of excess nucleophilic amine at the beginning of the reaction results in significant bis addition, giving sulfonamide and carboxamide product. Stepwise addition of nucleophilic amine as needed suppresses formation of this side product.

reactant | 2-Chloro-5-fluorosulfonylbenzoic acid | 440 μmol, 105 mg, 1.0 eq | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)F | C7H4ClFO4S
reactant | ethyl 1-piperazine carboxylate | 528 μmol, 80 μL, 1.2 eq | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | ethyldiisopropylamine | 440 μmol, 80 μL, 1.0 eq | C(C)N(C(C)C)C(C)C | C8H19N
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | sulfonyl fluoride | S(=O)(=O)(F)F | F2O2S
reactant | piperazine | 0.35 eq | N1CCNCC1 | C4H10N2
reactant | piperazine | 100 mmol, 20 μL, 0.25 eq | N1CCNCC1 | C4H10N2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 4-(3-Carboxy-4-chloro-benzenesulfonyl)-piperazine-1-carboxylic acid ethyl ester | 134 mg | C(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(=O)O | C14H17ClN2O6S
